US08580794B2
Trans-4-morpholinocyclohexanamine dihydrochloride
To a solution of trans-tert-butyl-4-morpholinocyclohexylcarbamate (19.2 g, 67.5 mmol) in dichloromethane (100 ml) was added HCl (100 ml, 400 mmol) (4M in dioxane) and the reaction mixture was stirred for 16 hours at room temperature. The reaction mixture was diluted with ether and solid salt was filtered off, and dried in an oven.

reactant | trans-tert-butyl-4-morpholinocyclohexylcarbamate | 67.5 mmol, 19.2 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N1CCOCC1)=O | C15H28N2O3
reactant | HCl | 400 mmol, 4M, 100 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Trans-4-morpholinocyclohexanamine dihydrochloride | Cl.Cl.O1CCN(CC1)[C@@H]1CC[C@H](CC1)N | InChI=1S/C10H20N2O.2ClH/c11-9-1-3-10(4-2-9)12-5-7-13-8-6-12;;/h9-10H,1-8,11H2;2*1H/t9-,10-;;
